US07517876B2
1,4-dihydroxy-1-[(2E)-3-phenylprop-2-enyl]naphthalen-2(1H)-one
Cinnamyl bromide (0.43 g, 2.2 mmol) was added to a suspension of indium metal (0.17 g, 1.5 mmol) in N,N-dimethylformamide (1 mL) at 25° C. for 0.5 h causing dissolution of the metal. 2-Hydroxy-1,4-naphthoquinone (0.25 g, 1.5 mmol) was dissolved in N,N-dimethylformamide (1 mL) and added to the mixture. After 0.5 h the mixture was partitioned between 1% HCl and ethyl acetate. The orgamic layer was separated, washed with water, brine, dried over sodium sulfate and the solvents were evaporated. The crude residue was purified using BioTage 12L column and 5% methanol/dichloromethane to give the title compound (40 mg, 10% yield).

reactant | Cinnamyl bromide | 2.2 mmol, 0.43 g | C(C=CC1=CC=CC=C1)Br | C9H9Br
reactant | indium | 1.5 mmol, 0.17 g | [In] | In
reactant | 2-Hydroxy-1,4-naphthoquinone | 1.5 mmol, 0.25 g | OC=1C(C2=CC=CC=C2C(C1)=O)=O | C10H6O3
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 1,4-dihydroxy-1-[(2E)-3-phenylprop-2-enyl]naphthalen-2(1H)-one | 40 mg, 10% yield | OC1(C(C=C(C2=CC=CC=C12)O)=O)C\C=C\C1=CC=CC=C1 | C19H16O3
